US03965127
α-(1,3-Dimethylureido)-4-hydroxy-3-methoxybenzylphosphonic acid ##SPC4##
A solution of 10.0g of 1,4-dimethyl-3-(4-hydroxy-3-methoxyphenyl)-2-phenoxy-1,4,2-diazaphospholidin-5-one-2-oxide in 90g of acetonitrile and 10g of water was warmed at reflux for 0.5 hr, and then most of the solvent was allowed to evaporate. The residue was recrystallized twice from ethanol to give 4.6g of white solid: mp 183°-184° (dec); 31P nmr (CD3SOCD3) -18.6 ppm (d, J = 24Hz); 1H nmr δ 10.0 (broad, 3, Oh), 5.7 (d, 1, J = 24Hz, CH), 3.8 (s, 3, OCH3), 2.9 (s, 3, NCH3), 2.7 (s, 3, NCH3); 6.7-7.3 (m, 4, aryl and HN).

reactant | 1,4-dimethyl-3-(4-hydroxy-3-methoxyphenyl)-2-phenoxy-1,4,2-diazaphospholidin-5-one-2-oxide | 10.0g | CN1P(C(N(C1=O)C)C1=CC(=C(C=C1)O)OC)(OC1=CC=CC=C1)=O | C17H19N2O5P
reactant | acetonitrile | C(C)#N | C2H3N
reactant | water | O | H2O
product | α-(1,3-Dimethylureido)-4-hydroxy-3-methoxybenzylphosphonic acid | 4.6g | CN(C(=O)NC)C(C1=CC(=C(C=C1)O)OC)P(O)(O)=O | C11H17N2O6P
